US06268444B1
Preparation of N-(1,1-dimethylethyl )-1-(3-(diphenylphosphino)-1H-inden-1-yl)-1,1-dimethylsilanamine, (42).
(1-(Diphenylphosphino)-1H-indenyl)lithium (4.45 g, 14.53 mmol) dissolved in 40 mL of THF was added within 15 minutes to a 100 mL THF solution of N-(tert-butyl)-N-(1-chloro-1,1-dimethylsilyl)amine (3,37 g, 20.34 mmol). After stirring overnight a red solution resulted. Solvent was removed under vacuum to give a red oil. The residue was extracted with 35 mL of hexane and filtered. Hexane was removed leaving 6.12 g of red oil. Yield 98 percent.

reactant | (1-(Diphenylphosphino)-1H-indenyl)lithium | 14.53 mmol, 4.45 g | C1(=CC=CC=C1)P(C1(C=CC2=CC=CC=C12)[Li])C1=CC=CC=C1
reactant | N-(tert-butyl)-N-(1-chloro-1,1-dimethylsilyl)amine | 20.34 mmol, 3,37 g | CC(C)(C)N[Si](C)(C)Cl | C6H16ClNSi
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-(1,1-dimethylethyl )-1-(3-(diphenylphosphino)-1H-inden-1-yl)-1,1-dimethylsilanamine | 6.12 g, Yield 98 percent | CC(C)(C)N[Si](C)(C)C1C=C(C2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1 | C27H32NPSi
